US08748624B2
3-(5-(5-cyclohexyl-2-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
A mixture of 3-(5-(4-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-2′,3′,4′,5′-tetrahydro-[1,1′-biphenyl]-3-yl)picolinamido)propanoic acid (47.6 mg, 0.087 mmol), ammonium formate (54.6 mg, 0.87 mmol) and 10% Pd—C (9.2 mg, 0.0087 mmol) in MeOH (5 mL) was refluxed for 1 h, then filtered through CELITE, washed with DCM-MeOH. The filtrate was concentrated and purified via column chromatography to give the title compound.

reactant | 3-(5-(4-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-2′,3′,4′,5′-tetrahydro-[1,1′-biphenyl]-3-yl)picolinamido)propanoic acid | 0.087 mmol, 47.6 mg | FC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C=1CCCCC1)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C34H32FN3O3
reactant | ammonium formate | 0.87 mmol, 54.6 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 0.0087 mmol, 9.2 mg | [Pd] | Pd
product | 3-(5-(5-cyclohexyl-2-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | C1(CCCCC1)C=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)CNC1=CC=C(C=C1)C1=CC=C(C=C1)F | C34H34FN3O3
